US05912342
5-ethoxy-2-methyl-1,2,3,4-tetrahydroisoquinoline (5a)
To the solution of 5-hydroxy-2-methyl-1,2,3,4-tetrahydroisoquinoline (0.5 g, 3.07 mmol), triphenylphosphine (1.0 g, 3.83 mmol) and ethanol (0.27 mL, 4.61 mmol) in dry tetrahydrofurane 0.597 mL (3.83 mmol) diethyldiazodicarboxylate was added dropwise. After the reaction mixture was stirred at r.t. overnight, it was diluted with dichloromethane, washed with water, and the product was extracted into dilute aqueous hydrochloric acid solution, which was washed with dichloromethane. The aqueous phase was made alkaline with aqueous sodium hydroxide, and extracted with dichloromethane. The dichloromethane solution was dried over Na2SO4 and evaporated. The product was purified by silicagel chromathography (System E) and recrystallised from absolute ethanol. Yield 0.586 g, 48%. 1H NMR (CDCl3): 7.07 (1H, t, 8.1 Hz), 6.64 (2H, m), 4.01 (2H, q, 7.1 Hz), 3.55 (2H, s), 2.81 (2H, t, 6.1 Hz), 2.67 (2H, t, 6.1 Hz), 2.44 (3H, s), 1.40 (3H, t, 6.8 Hz). 13C NMR (CDCl3): 156.5, 135.9, 126.1, 123.0, 118.4, 108.3, 63.3, 57.9, 52.7, 46.0, 23.8, 14.9; MS (EI+): 191 (83%), 190 (100%), 162 (15%), 160 (16%), 148 (61%), 120 (28%), 104 (48%); Rt (HPLC)=8.1 min.

reactant | 5-hydroxy-2-methyl-1,2,3,4-tetrahydroisoquinoline | 3.07 mmol, 0.5 g | OC1=C2CCN(CC2=CC=C1)C | C10H13NO
reactant | triphenylphosphine | 3.83 mmol, 1.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethanol | 4.61 mmol, 0.27 mL | C(C)O | C2H6O
reactant | tetrahydrofurane | 3.83 mmol, 0.597 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-ethoxy-2-methyl-1,2,3,4-tetrahydroisoquinoline | C(C)OC1=C2CCN(CC2=CC=C1)C | C12H17NO
